US04517119
(b) H-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu
A solution of Z-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu 42.6 g; 32.0 mmol) in DMF (650 mL) containing 10% Pd-BaSO4 (15.0 g) was hydrogenated in a Vibromixer apparatus for 3 h. The reaction mixture was filtered through a bed of celite which was washed with DMF (5×250 mL). The combined filtrate was evaporated to 600 mL and DMSO (300 mL) added. The resultant solution was used fo the next stage of synthesis. A portion was evaporated to dryness, taken up in MeOH and precipitated with Et2O. The resultant gel was filtered, washed with Et2O and dried in vacuo; mp 246°-249° dec; [α]D25 -18.78° (c 1, DMF); Rf 0.78 (n-BuOH:AcOH:Pyr:H2O; 1-1-1-1). Anal. calc. for C57H99N9O18 (1198.46): C, 57.13; H, 8.33; N, 10.52. Found: C, 56.83; H, 8.32; N, 10.39.

reactant | Z-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu | 42.6 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C65H105N9O20
solvent | DMF | 650 mL | CN(C)C=O | C3H7NO
catalyst | Pd BaSO4 | 15.0 g | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | H-Glu(OtBu)-Val-Val-Glu(OtBu)-Glu(OtBu)-Ala-Glu(OtBu)-Asn-OtBu | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C57H99N9O18
